US06949648B2
Ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A solution of diethyl 2-([[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]methylene)malonate (2.0 g, 5.8 mmol) in polyphosphoric acid (10 g) was heated and stirred at 100° C. for 2 hours. The solution was cooled to room temperature, and iced water was added thereto. The solution was neutralized by the addition of an aqueous sodium hydroxide solution, and organic matter was extracted with 10% methanol/chloroform. The extract was washed with saturated brine and water, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Purification of the residue by silica gel column chromatography (chloroform) gave the title compound (0.98 g, 57% yield).

reactant | diethyl 2-([[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]methylene)malonate | 5.8 mmol, 2.0 g | CC1=NN(C(=C1)NC=C(C(=O)OCC)C(=O)OCC)C1=NC=CC=C1 | C17H20N4O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.98 g, 57% yield | OC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H14N4O3
